US08895582B2
To a mixture of (2S,4R)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4-hydroxy-5-(phosphonooxy)pentyl 3-phenylisoxazol-5-ylcarbamate (48 mg, 0.08 mmol, 1.0 equiv.) at 0° C., was added NaOH (0.1 N, 1.6 mL, 2.0 equiv.) dropwise. The mixture was stirred at RT for 1 h followed by concentration to give sodium (2R,4S)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-2-hydroxy-5-(3-phenylisoxazol-5-ylcarbamoyloxy)pentyl phosphate (55 mg, quant.) as a white solid. LRMS (M−2Na+ 3H+) m/z 601.5.

reactant | (2S,4R)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4-hydroxy-5-(phosphonooxy)pentyl 3-phenylisoxazol-5-ylcarbamate | 0.08 mmol, 48 mg, 1.0 equiv. | C1(=CC=CC=C1)C1=NOC(=C1)NC(OC[C@H](C[C@H](COP(=O)(O)O)O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C24H27ClFN4O9P
reactant | NaOH | 0.1 N, 1.6 mL, 2.0 equiv. | [OH-].[Na+]
product | sodium (2R,4S)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-2-hydroxy-5-(3-phenylisoxazol-5-ylcarbamoyloxy)pentyl phosphate | 55 mg | P(=O)(OC[C@@H](C[C@@H](COC(NC1=CC(=NO1)C1=CC=CC=C1)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)O)([O-])[O-].[Na+].[Na+] | InChI=1S/C24H27ClFN4O9P.2Na/c1-30(23(32)27-12-16-8-5-9-19(26)22(16)25)17(10-18(31)14-38-40(34,35)36)13-37-24(33)28-21-11-20(29-39-21)15-6-3-2-4-7-15;;/h2-9,11,17-18,31H,10,12-14H2,1H3,(H,27,32)(H,28,33)(H2,34,35,36);;/q;2*+1/p-2/t17-,18+;;/m0../s1
